US04157347
N-Cyano-N'-(2-methyl-3-butyn-2-yl)-S-methyl Isothiourea
A solution of dimethyl cyanodithioimidocarbonate (9.0 g, 0.615 mole) and 1,1-dimethylpropargylamine (90% amine, remainder water, 5.68 g, 0.0615 mole) in acetonitrile (125 ml) was stirred at reflux temperature for 13 days. The reaction mixture was evaporated under reduced pressure and the residue chromatographed on silica gel. The appropriate fractions were combined and the product was recrystallized from toluene to give the title product, mp 128°-130.5° C.

reactant | dimethyl cyanodithioimidocarbonate | 0.615 mole, 9.0 g | C(#N)N=C(SC)SC | C4H6N2S2
reactant | 1,1-dimethylpropargylamine | 0.0615 mole, 5.68 g | CC(C)(C#C)N | C5H9N
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | N-Cyano-N'-(2-methyl-3-butyn-2-yl)-S-methyl Isothiourea | C(#N)NC(SC)=NC(C)(C#C)C | C8H11N3S
